2185-05-16 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Received 1L bolus for hypotension.
   - Weaned from pressors overnight.
 PRESEP CATHETER - START [**2185-5-15**] 04:25 PM
 URINE CULTURE - At [**2185-5-15**] 05:23 PM
 ARTERIAL LINE - START [**2185-5-15**] 06:26 PM
 NASAL SWAB - At [**2185-5-15**] 06:27 PM
   Allergies:
   Aspirin
   Abdominal pain;
   Prednisone
   glaucoma;
   Last dose of Antibiotics:
   Vancomycin - [**2185-5-15**] 08:13 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-16**] 02:01 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-5-16**] 12:15 AM
   Morphine Sulfate - [**2185-5-16**] 02:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-16**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 105 (86 - 105) bpm
   BP: 163/75(103) {96/51(65) - 163/75(103)} mmHg
   RR: 29 (13 - 32) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
    CVP: 11 (7 - 11)mmHg
   SvO2: 83%
   Total In:
                                                                  6,779 mL
                                                                    289 mL
   PO:
   TF:
   IVF:
                                                                  1,779 mL
                                                                    289 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    700 mL
   Urine:
                                                                  1,435 mL
                                                                    700 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,344 mL
                                                                   -411 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 92%
   ABG: 7.39/36/65/21/-2
   PaO2 / FiO2: 108
   Physical Examination
   General: Alert, oriented, tachypneic, not using accessory muscles
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Left side with coarse breath sounds, right with inspiratory and
   expiratory ronchi, dullness to percussion on the right, egophony on the
   right
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neurologic:  Alert and oriented x 3, strength 5/5 throughout, sensation
   intact to light touch across all dermatomes
   Labs / Radiology
   156 K/uL
   11.8 g/dL
   95 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   16 mg/dL
   110 mEq/L
   139 mEq/L
   35.6 %
   10.4 K/uL
        [image002.jpg]
                             [**2185-5-15**]  06:16 PM
                             [**2185-5-15**]  06:28 PM
                             [**2185-5-16**]  03:45 AM
                             [**2185-5-16**]  04:23 AM
   WBC
   10.4
   Hct
   35.6
   Plt
   156
   Cr
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   19
   23
   Glucose
   95
   Other labs: PT / PTT / INR:19.1/36.9/1.8, CK / CKMB /
   Troponin-T:91//<0.01, Lactic Acid:1.6 mmol/L, Ca++:7.7 mg/dL, Mg++:2.6
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5876**] is a 56 year old male with a history of pulmonary
   sarcoidosis, obstructive sleep apnea and asthma who presents from home
   with right sided chest pain and dyspnea found to have a multifocal
   right sided pneumonia and septic physiology.
   .
   Septic Shock: Likely related to known multifocal pneumonia.  Patient is
   afebrile, but has bandemia, tachycardia and hypotension.  He was
   recently treated with azithromycin without improvement.  Given severe
   hemodynamic compromise and recent antibiotic course will treat broadly
   for resistent infections.
   - vancomycin, zosyn and levofloxaxin
   - sputum cultures
   - urine legionella
   - blood cultures pending from emergnecy room
   - UA negative
   - IVF to target CVP 10-12, MAP > 65, UOP > 30cc/hr
   - measure ScVO2 and consider dopamine if < 70
   - levophed as necessary to maintain hemodynamic parameters
   - cortisol pending, if inappropriately low will perform cortisol
   stimulation and consider stress dose steroids
   - trend lactate post-fluid resuscitation
   .
   Hypoxia/Respiratory Distress: Currently satting 93% on 100%
   non-rebreather with respiratory rates in the 30s.  Currently reporting
   inability to take deep breaths secondary to pain.
   - treating pneumonia as above
   - oxygen to maintain saturations > 90%
   - check A-a gradient off of ABG
   - small doses of morphine to allow for decreased splinting
   - if progressive hypoxia will require mechanical ventilation
   - continue home asthma regimen
   .
   Acute Renal Failure:  Creatinine 1.6 from baseline 0.9.  Likely
   prerenal in the setting of septic shock.  Will monitor creatinine
   post-resuscitation.
   - monitor creatinine
   - renally dose medications
   - consider urine electrolytes and sediment if no improvement
   .
   Isolted ST elevation:  Patient with [**Street Address(2) 5877**] elevation in lead
   III on admission.  Subsequently resolved on future EKGs.  One set of
   cardiac enzymes negative.
   - r/o MI with serial cardiac enzymes
   .
   Sarcoidosis:  Manifested by pulmonary and occular complications.  Nto
   on recent steroids.  Appearance of chest CT does not suggest severe
   disease.
   - continue to monitor
   .
   Obstructive Sleep Apnea:
   - continue home CPAP if tolerated
   .
   Hyperglycemia:  Not on medications at home.
   - insulin sliding scale
   .
   Hypercholesterolemia
   - continue cholestyramine
   .
   Depression:
   - continue effexor and clonazepam
   .
   Benign Prostatic Hypertrophy:
   - continue finasteride
   .
   Exercise Induced Asthma:
   - continue albuterol, advair and monteleukast
   .
   GERD:
   - continue omeprazole
   .
   FEN: IVF as above for resuscitation, NPO requiring non-rebreather,
   monitor electrolytes
   .
   Prophylaxis: Subutaneous heparin, PPI
   .
   Access: Right sepsis catheter
   .
   Code:  Full (discussed with patient)
   .
   Communication: Patient
   .
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2185-5-15**] 04:25 PM
   18 Gauge - [**2185-5-15**] 05:13 PM
   Arterial Line - [**2185-5-15**] 06:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2185-05-16 09:24:00 Physician Attending Progress Note
TITLE:
   Chief Complaint: Sepsis, hypoxemic resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 PRESEP CATHETER - START [**2185-5-15**] 04:25 PM
 URINE CULTURE - At [**2185-5-15**] 05:23 PM
 ARTERIAL LINE - START [**2185-5-15**] 06:26 PM
 NASAL SWAB - At [**2185-5-15**] 06:27 PM
   - weaned off of pressors overnight
   History obtained from [**Hospital 19**] Medical records
   Allergies:
   Aspirin
   Abdominal pain;
   Prednisone
   glaucoma;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-16**] 02:01 AM
   Vancomycin - [**2185-5-16**] 08:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-5-16**] 07:45 AM
   Heparin Sodium (Prophylaxis) - [**2185-5-16**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: No(t) Chest pain
   Respiratory: Dyspnea
   Musculoskeletal: neck pain
   Pain: [**6-1**] Moderate
   Pain location: neck
   Flowsheet Data as of  [**2185-5-16**] 09:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.2
C (97.1
   HR: 94 (86 - 105) bpm
   BP: 133/67(86) {96/51(65) - 163/75(103)} mmHg
   RR: 29 (13 - 32) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 9 (7 - 11)mmHg
   SvO2: 84%
                                Total In:
                                                                  6,779 mL
                                                                    705 mL
   PO:
                                200 mL
   TF:
   IVF:
                                                                  1,779 mL
                                                                    505 mL
   Blood products:
   Total out:
                                                                  1,435 mL
                                                                    900 mL
   Urine:
                                                                  1,435 mL
                                                                    900 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  5,344 mL
                                                                   -195 mL
   Respiratory support
   O2 Delivery Device: High flow nasal cannula
   SpO2: 92%
   ABG: 7.39/36/65/21/-2
   PaO2 / FiO2: 108
   Physical Examination
   General Appearance: Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal, Distant)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Percussion: Resonant : ), (Breath Sounds:
   Crackles : bases, Diminished: )
   Abdominal: Soft, Bowel sounds present
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.8 g/dL
   156 K/uL
   95 mg/dL
   0.9 mg/dL
   21 mEq/L
   3.8 mEq/L
   16 mg/dL
   110 mEq/L
   139 mEq/L
   35.6 %
   10.4 K/uL
        [image002.jpg]
                             [**2185-5-15**]  06:16 PM
                             [**2185-5-15**]  06:28 PM
                             [**2185-5-16**]  03:45 AM
                             [**2185-5-16**]  04:23 AM
   WBC
   10.4
   Hct
   35.6
   Plt
   156
   Cr
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   19
   23
   Glucose
   95
   Other labs: PT / PTT / INR:19.1/36.9/1.8, CK / CKMB /
   Troponin-T:91//<0.01, Lactic Acid:1.6 mmol/L, Ca++:7.7 mg/dL, Mg++:2.6
   mg/dL, PO4:3.2 mg/dL
   Assessment and Plan
   56M h/o sarcoidosis, asthma p/w sepsis, severe CAP
   Sepsis
   -fluid resuscitated with crystalloids
   -able to wean levophed off
   -pan cx
   -empiric vanc/levo/zosyn pending cx data guidance
   -WBC nl but with bandemia (18%)
    Hypoxemic resp failure
   -CAP
   -still with significant FiO2 requirement - large Aa gradient
   -maint sats with FM
   -if further decompensation will require intubation
   CAP
   -multilobar
   -abx as above
   Sarcoidosis
   - primary pulmonologist involved
   BPH
   -cont meds
   OSA
   -cpap at home
   Asthma
   -cont outpt meds
   Renal
   -creat stable
   -making urine
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2185-5-15**] 04:25 PM
   18 Gauge - [**2185-5-15**] 05:13 PM
   Arterial Line - [**2185-5-15**] 06:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Patient is critically ill.
   Total time spent: 45minutes

2185-05-17 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   No overnight events.
   Allergies:
   Aspirin
   Abdominal pain;
   Prednisone
   glaucoma;
   Last dose of Antibiotics:
   Vancomycin - [**2185-5-16**] 08:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-17**] 01:57 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-5-16**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2185-5-16**] 11:39 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-17**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 97 (91 - 108) bpm
   BP: 124/59(78) {88/47(61) - 135/69(88)} mmHg
   RR: 25 (24 - 41) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 5 (5 - 14)mmHg
   SvO2: 83%
   Total In:
                                                                  2,055 mL
                                                                    272 mL
   PO:
                                                                  1,000 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,055 mL
                                                                    172 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    300 mL
   Urine:
                                                                  1,950 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    105 mL
                                                                    -28 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: 7.43/34/70/20/0
   PaO2 / FiO2: 117
   Physical Examination
   General: Alert, oriented, tachypneic, not using accessory muscles
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Left side with coarse breath sounds, and decreased breath sounds
   at base, right with dullness to percussion, egophony on the right at
   base up to mid-field, coarse crackles throughout
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neurologic:  Alert and oriented x 3, strength 5/5 throughout
   Labs / Radiology
   152 K/uL
   11.1 g/dL
   142 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.4 mEq/L
   16 mg/dL
   109 mEq/L
   138 mEq/L
   32.6 %
   12.1 K/uL
        [image002.jpg]
                             [**2185-5-15**]  06:16 PM
                             [**2185-5-15**]  06:28 PM
                             [**2185-5-16**]  03:45 AM
                             [**2185-5-16**]  04:23 AM
                             [**2185-5-17**]  03:47 AM
                             [**2185-5-17**]  05:22 AM
   WBC
   10.4
   12.1
   Hct
   35.6
   32.6
   Plt
   156
   152
   Cr
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   19
   23
   23
   Glucose
   95
   142
   Other labs: PT / PTT / INR:14.0/34.0/1.2, CK / CKMB /
   Troponin-T:91//<0.01, Lactic Acid:1.6 mmol/L, Ca++:7.8 mg/dL, Mg++:1.9
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5876**] is a 56 year old male with a history of pulmonary
   sarcoidosis, obstructive sleep apnea and asthma who presents from home
   with right sided chest pain and dyspnea found to have a multifocal
   right sided pneumonia and septic physiology.
   .
   Septic Shock: Likely related to known multifocal pneumonia.  Patient is
   afebrile, but has bandemia, tachycardia and hypotension.  He was
   recently treated with azithromycin without improvement.  Given severe
   hemodynamic compromise and recent antibiotic course will treat broadly
   for resistent infections. Has negative urine Legionella and negative
   UA. Cortisol appropriately elevated. Has elevated WBC today
   - cont vancomycin, zosyn and levofloxaxin for now
   - f/u sputum cultures (gram stain showing g+ve cocci and g-ve rods)
   - blood cultures pending from emergnecy room
   - IVF to target CVP 10-12, MAP > 65, UOP > 30cc/hr
   - levophed as necessary to maintain hemodynamic parameters
   - CXR to evaluate effusion, if persistent, consider thoracentesis
   .
   Hypoxia/Respiratory Distress: Currently satting 93% on 100%
   non-rebreather with respiratory rates in the 30s.  Currently reporting
   inability to take deep breaths secondary to pain. Has elevated A-a
   gradient (>300).
   - treating pneumonia as above
   - oxygen to maintain saturations > 90%
   - small doses of morphine to allow for decreased splinting
   - if progressive hypoxia will require mechanical ventilation
   - continue home asthma regimen
   .
   Acute Renal Failure:  Creatinine was elevated to 1.6 from baseline
   0.9.  Likely prerenal in the setting of septic shock and have now
   corrected to baseline.  Will continue to monitor creatinine
   post-resuscitation.
   - monitor creatinine
   .
   Isolted ST elevation:  Patient with [**Street Address(2) 5877**] elevation in lead
   III on admission.  Subsequently resolved on future EKGs.  One set of
   cardiac enzymes negative. Ruled out for MI with cardiac enzymes
   .
   Sarcoidosis:  Manifested by pulmonary and occular complications.  Nto
   on recent steroids.  Appearance of chest CT does not suggest severe
   disease.
   - continue to monitor
   .
   Obstructive Sleep Apnea:
   - continue home CPAP if tolerated
   .
   Hyperglycemia:  Not on medications at home.
   - insulin sliding scale
   .
   Hypercholesterolemia
   - continue cholestyramine
   .
   Depression:
   - continue effexor and clonazepam
   .
   Benign Prostatic Hypertrophy:
   - continue finasteride
   .
   Exercise Induced Asthma:
   - continue albuterol, advair and monteleukast
   .
   GERD:
   - continue omeprazole
   .
   FEN: IVF as needed for resuscitation, regular diet, monitor
   electrolytes
   .
   Prophylaxis: Subutaneous heparin, PPI
   .
   Access: Right sepsis catheter
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Regular; Cardiac/Heart healthy , Diabetic/Consistent Carbohydrate
   Glycemic Control:
   Lines:
   Presep Catheter - [**2185-5-15**] 04:25 PM
   18 Gauge - [**2185-5-15**] 05:13 PM
   Arterial Line - [**2185-5-15**] 06:26 PM
   Prophylaxis:
   DVT: hep SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2185-05-17 10:15:00 Physician Attending Progress Note
Chief Complaint: respiratory distress.
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with OSA, sarcoid, admitted with septiciemia and multifocal
   PNA (RML and RLL).  Admitted on [**5-15**] was on pressors which have now
   been weaned off.  Has been on 60% FM oxygen.
   24 Hour Events:
   Allergies:
   Aspirin
   Abdominal pain;
   Prednisone
   glaucoma;
   Last dose of Antibiotics:
   Vancomycin - [**2185-5-16**] 08:05 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-17**] 01:57 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-5-16**] 04:00 PM
   Heparin Sodium (Prophylaxis) - [**2185-5-16**] 11:39 PM
   Other medications:
   SSI
   levoflox
   flunase
   singulaire
   finasteride
   [**Doctor First Name **]
   asa
   simvastatin
   heparin
   prilosec
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-17**] 10:14 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 97 (91 - 108) bpm
   BP: 124/59(78) {88/47(61) - 135/69(88)} mmHg
   RR: 25 (24 - 41) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 5 (5 - 14)mmHg
   Total In:
                                                                  2,055 mL
                                                                    299 mL
   PO:
                                                                  1,000 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  1,055 mL
                                                                    199 mL
   Blood products:
   Total out:
                                                                  1,950 mL
                                                                    300 mL
   Urine:
                                                                  1,950 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    105 mL
                                                                     -1 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 94%
   ABG: 7.43/34/70/20/0 on 60% FM
   PaO2 / FiO2: 117
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   11.1 g/dL
   152 K/uL
   142 mg/dL
   0.9 mg/dL
   20 mEq/L
   3.4 mEq/L
   16 mg/dL
   109 mEq/L
   138 mEq/L
   32.6 %
   12.1 K/uL
        [image002.jpg]
                             [**2185-5-15**]  06:16 PM
                             [**2185-5-15**]  06:28 PM
                             [**2185-5-16**]  03:45 AM
                             [**2185-5-16**]  04:23 AM
                             [**2185-5-17**]  03:47 AM
                             [**2185-5-17**]  05:22 AM
   WBC
   10.4
   12.1
   Hct
   35.6
   32.6
   Plt
   156
   152
   Cr
   0.9
   0.9
   TropT
   <0.01
   <0.01
   TCO2
   19
   23
   23
   Glucose
   95
   142
   Other labs: PT / PTT / INR:14.0/34.0/1.2, CK / CKMB /
   Troponin-T:91//<0.01, Lactic Acid:1.6 mmol/L, Ca++:7.8 mg/dL, Mg++:1.9
   mg/dL, PO4:1.6 mg/dL
   Assessment and Plan
   Severe CAP/hypoxemia/respiratory distress:  Continue
   vanco/zosyn/levoflox for severe CAP.
   Septic shock:  has been off pressors.
   Pleural effusion:  will check CXR, if significant left sided effusion,
   can consider tapping effusion
   Pain:  on morphine for pleuritic CP
   SSI
   asthma:  on home meds
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2185-5-15**] 04:25 PM
   18 Gauge - [**2185-5-15**] 05:13 PM
   Arterial Line - [**2185-5-15**] 06:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: Other)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill
   ------ Protected Section ------
   Studied right thorax with ultrasound probe
 found only a small amount
   of fluid <1inch think so will hold off on
   Trying a thoracentesis.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) **], MD
   on:[**2185-5-17**] 11:54 ------

2185-05-18 07:35:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Repeat CXR eval and ultrasound eval to attempt to identify pleural
   effusion large enough to tap; however, effusion was not large enough
   - Patient had periods of sats in low 90s in the evening, which improved
   with pain control and with him falling asleep
   Allergies:
   Aspirin
   Abdominal pain;
   Prednisone
   glaucoma;
   Last dose of Antibiotics:
   Vancomycin - [**2185-5-17**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-18**] 02:00 AM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-5-17**] 07:59 PM
   Heparin Sodium (Prophylaxis) - [**2185-5-18**] 12:00 AM
   Other medications:
   Changes to medical and family history:  None.
   Review of systems is unchanged from admission
   Flowsheet Data as of  [**2185-5-18**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37
C (98.6
   HR: 81 (81 - 102) bpm
   BP: 144/69(94) {113/55(74) - 155/73(97)} mmHg
   RR: 35 (27 - 40) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 9 (2 - 12)mmHg
   Total In:
                                                                  1,500 mL
                                                                    406 mL
   PO:
                                                                    560 mL
                                                                    180 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    226 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                    600 mL
   Urine:
                                                                  1,900 mL
                                                                    600 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                   -194 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Face tent
   SpO2: 96%
   ABG: ///25/
   Physical Examination
   General: Alert, oriented, tachypneic, not using accessory muscles
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Left side with coarse breath sounds, and decreased breath sounds
   at base, right with dullness to percussion, egophony on the right at
   base up to mid-field, less pronounced than yesterday, coarse crackles
   throughout
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neurologic:  Alert and oriented x 3, strength 5/5 throughout
   Labs / Radiology
   165 K/uL
   11.0 g/dL
   130 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.4 mEq/L
   11 mg/dL
   106 mEq/L
   139 mEq/L
   32.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2185-5-15**]  06:16 PM
                             [**2185-5-15**]  06:28 PM
                             [**2185-5-16**]  03:45 AM
                             [**2185-5-16**]  04:23 AM
                             [**2185-5-17**]  03:47 AM
                             [**2185-5-17**]  05:22 AM
                             [**2185-5-18**]  02:41 AM
   WBC
   10.4
   12.1
   12.4
   Hct
   35.6
   32.6
   32.8
   Plt
   156
   152
   165
   Cr
   0.9
   0.9
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   19
   23
   23
   Glucose
   95
   142
   130
   Other labs: PT / PTT / INR:13.7/34.3/1.2, CK / CKMB /
   Troponin-T:59//<0.01, ALT / AST:18/11, Differential-Neuts:88.6 %,
   Lymph:7.1 %, Mono:3.7 %, Eos:0.4 %, Lactic Acid:1.6 mmol/L, Ca++:8.0
   mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5876**] is a 56 year old male with a history of pulmonary
   sarcoidosis, obstructive sleep apnea and asthma who presents from home
   with right sided chest pain and dyspnea found to have a multifocal
   right sided pneumonia and septic physiology.
   .
   Septic Shock: Likely related to known multifocal pneumonia.  Patient is
   afebrile, but had bandemia, tachycardia and hypotension.  He was
   recently treated with azithromycin previously in [**Month (only) **].  Given his
   hemodynamic compromise and recent antibiotic course, we are treating
   broadly for resistent infections. Has negative urine Legionella and
   negative UA. Cortisol appropriately elevated. Has slightly elevated WBC
   - cont vancomycin, zosyn and levofloxaxin for now
   - f/u sputum cultures, appears to be oral flora (gram stain showing
   g+ve cocci and g-ve rods)
   - f/u blood cultures pending from emergency room
   - IVF as needed to target CVP 10-12, MAP > 65, UOP > 30cc/hr
   - levophed as necessary to maintain hemodynamic parameters
   .
   Hypoxia/Respiratory Distress: O2 saturations of 93% - 100% with
   respiratory rates in the 30s on FiO2 of 60% and have been unable to
   wean, however is now on face tent so probably receiving a lower amount
   of oxygen than on admission. Reports inability to take deep breaths
   secondary to pain.
   - treating pneumonia as above
   - oxygen to maintain saturations > 90%
   - small doses of morphine to allow for decreased splinting
   - if progressive hypoxia will require mechanical ventilation
   - continue home asthma regimen
   .
   Acute Renal Failure:  Creatinine was elevated to 1.6 from baseline
   0.9.  Likely prerenal in the setting of septic shock and has now
   corrected to baseline.  Will continue to monitor.
   .
   Isolted ST elevation:  Patient with [**Street Address(2) 5877**] elevation in lead
   III on admission.  Subsequently resolved on future EKGs.  One set of
   cardiac enzymes negative. Ruled out for MI with cardiac enzymes
   .
   Sarcoidosis:  Manifested by pulmonary and occular complications.  Nto
   on recent steroids.  Appearance of chest CT does not suggest severe
   disease.
   - continue to monitor
   .
   Obstructive Sleep Apnea:
   - continue home CPAP if tolerated
   .
   Hyperglycemia:  Not on medications at home.
   - insulin sliding scale
   .
   Hypercholesterolemia
   - continue cholestyramine
   .
   Depression:
   - continue effexor and clonazepam
   .
   Benign Prostatic Hypertrophy:
   - continue finasteride
   .
   Exercise Induced Asthma:
   - continue albuterol, advair and monteleukast
   .
   GERD:
   - continue omeprazole
   .
   FEN: IVF as needed for resuscitation, regular diet, monitor
   electrolytes
   .
   Prophylaxis: Subutaneous heparin, PPI
   .
   Access: Right sepsis catheter
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Regular; Cardiac/Heart healthy , Diabetic/Consistent Carbohydrate
   Glycemic Control:  insulin sliding scale
   Lines:
   Presep Catheter - [**2185-5-15**] 04:25 PM
   18 Gauge - [**2185-5-15**] 05:13 PM
   Arterial Line - [**2185-5-15**] 06:26 PM
 plan to remove a-line today
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for today

2185-05-18 10:57:00 Physician Attending Progress Note
Chief Complaint: respiratory distress
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with severe COPD.  Continues with high oxygen requirement.
   Feels slightly better today
   24 Hour Events:
   Allergies:
   Aspirin
   Abdominal pain;
   Prednisone
   glaucoma;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-18**] 02:00 AM
   Vancomycin - [**2185-5-18**] 08:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2185-5-18**] 08:00 AM
   Morphine Sulfate - [**2185-5-18**] 08:00 AM
   Other medications:
   SSI
   vanco
   levoflox
   flonase
   effexor
   singulair
   finasteride
   [**Doctor First Name **]
   simvastatin
   cholestyramine
   advair
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-18**] 10:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.1
C (98.7
   HR: 89 (75 - 102) bpm
   BP: 157/76(104) {113/55(74) - 157/84(104)} mmHg
   RR: 40 (27 - 40) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 12 (2 - 12)mmHg
   Total In:
                                                                  1,500 mL
                                                                    818 mL
   PO:
                                                                    560 mL
                                                                    360 mL
   TF:
   IVF:
                                                                    940 mL
                                                                    458 mL
   Blood products:
   Total out:
                                                                  1,900 mL
                                                                  1,380 mL
   Urine:
                                                                  1,900 mL
                                                                  1,380 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -400 mL
                                                                   -563 mL
   Respiratory support
   O2 Delivery Device: High flow neb, Aerosol-cool, Face tent
   FiO2: 60%
   SpO2: 95%
   ABG: ///25/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Bronchial: right and right
   anterior, Diminished: right posterior with inspiratory squeeks)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.0 g/dL
   165 K/uL
   130 mg/dL
   0.8 mg/dL
   25 mEq/L
   3.4 mEq/L
   11 mg/dL
   106 mEq/L
   139 mEq/L
   32.8 %
   12.4 K/uL
        [image002.jpg]
                             [**2185-5-15**]  06:16 PM
                             [**2185-5-15**]  06:28 PM
                             [**2185-5-16**]  03:45 AM
                             [**2185-5-16**]  04:23 AM
                             [**2185-5-17**]  03:47 AM
                             [**2185-5-17**]  05:22 AM
                             [**2185-5-18**]  02:41 AM
   WBC
   10.4
   12.1
   12.4
   Hct
   35.6
   32.6
   32.8
   Plt
   156
   152
   165
   Cr
   0.9
   0.9
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   19
   23
   23
   Glucose
   95
   142
   130
   Other labs: PT / PTT / INR:13.7/34.3/1.2, CK / CKMB /
   Troponin-T:59//<0.01, ALT / AST:18/11, Differential-Neuts:88.6 %,
   Lymph:7.1 %, Mono:3.7 %, Eos:0.4 %, Lactic Acid:1.6 mmol/L, Ca++:8.0
   mg/dL, Mg++:1.8 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 PNEUMONIA, BACTERIAL, COMMUNITY ACQUIRED (CAP)/respiratory distress:
   Slightly better today, with decreased oxygen requirement.  Continue
   antibiotics including legionella
   coverage.  Incentive spirometry
 HYPOTENSION (NOT SHOCK):  Was septic when he came in but now better
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN):  Still having pain with deep
   breathing.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2185-5-15**] 04:25 PM
   18 Gauge - [**2185-5-15**] 05:13 PM
   Arterial Line - [**2185-5-15**] 06:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2185-05-19 07:30:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2185-5-18**] 02:20 PM
   - Removed art-line.
   - Discontinued vanc and zosyn (ID did not approve) and started
   Ceftriaxone.
   Allergies:
   Aspirin
   Abdominal pain;
   Prednisone
   glaucoma;
   Last dose of Antibiotics:
   Vancomycin - [**2185-5-18**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-18**] 10:00 AM
   Ceftriaxone - [**2185-5-18**] 04:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-5-18**] 08:56 PM
   Heparin Sodium (Prophylaxis) - [**2185-5-19**] 12:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2185-5-19**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 72 (72 - 91) bpm
   BP: 133/83(95) {120/66(80) - 138/83(95)} mmHg
   RR: 27 (27 - 40) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 7 (7 - 12)mmHg
   Total In:
                                                                  1,555 mL
   PO:
                                                                    880 mL
   TF:
   IVF:
                                                                    675 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    625 mL
   Urine:
                                                                  3,210 mL
                                                                    625 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,655 mL
                                                                   -625 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General: Alert, oriented, tachypneic, not using accessory muscles
   HEENT: Sclera anicteric, MMM, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Left side with coarse breath sounds, and decreased breath sounds
   at base, right with dullness to percussion, egophony on the right at
   base up to mid-field, less pronounced than yesterday, coarse crackles
   throughout
   CV: Tachycardic, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: no foley
   Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or edema
   Neurologic:  Alert and oriented x 3, strength 5/5 throughout
   Labs / Radiology
   199 K/uL
   11.3 g/dL
   118 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   14 mg/dL
   107 mEq/L
   142 mEq/L
   34.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2185-5-15**]  06:16 PM
                             [**2185-5-15**]  06:28 PM
                             [**2185-5-16**]  03:45 AM
                             [**2185-5-16**]  04:23 AM
                             [**2185-5-17**]  03:47 AM
                             [**2185-5-17**]  05:22 AM
                             [**2185-5-18**]  02:41 AM
                             [**2185-5-19**]  03:00 AM
   WBC
   10.4
   12.1
   12.4
   9.5
   Hct
   35.6
   32.6
   32.8
   34.1
   Plt
   156
   152
   165
   199
   Cr
   0.9
   0.9
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   19
   23
   23
   Glucose
   95
   142
   130
   118
   Other labs: PT / PTT / INR:13.7/31.7/1.2, CK / CKMB /
   Troponin-T:59//<0.01, ALT / AST:18/11, Differential-Neuts:88.6 %,
   Lymph:7.1 %, Mono:3.7 %, Eos:0.4 %, Lactic Acid:1.6 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
 Mr. [**Known lastname 5876**] is a 56 year old male with a history of pulmonary
   sarcoidosis, obstructive sleep apnea and asthma who presents from home
   with right sided chest pain and dyspnea found to have a multifocal
   right sided pneumonia and septic physiology.
   .
   Septic Shock: Likely related to known multifocal pneumonia.  Patient is
   afebrile, but had bandemia, tachycardia and hypotension.  He was
   recently treated with azithromycin previously in [**Month (only) **].  Given his
   hemodynamic compromise and recent antibiotic course, we are treating
   broadly for resistent infections. Has negative urine Legionella and
   negative UA. Cortisol appropriately elevated. Has slightly elevated WBC
   - cont vancomycin, zosyn and levofloxaxin for now
   - f/u sputum cultures, appears to be oral flora (gram stain showing
   g+ve cocci and g-ve rods)
   - f/u blood cultures pending from emergency room
   - IVF as needed to target CVP 10-12, MAP > 65, UOP > 30cc/hr
   - levophed as necessary to maintain hemodynamic parameters
   .
   Hypoxia/Respiratory Distress: O2 saturations of 93% - 100% with
   respiratory rates in the 30s on FiO2 of 60% and have been unable to
   wean, however is now on face tent so probably receiving a lower amount
   of oxygen than on admission. Reports inability to take deep breaths
   secondary to pain.
   - treating pneumonia as above
   - oxygen to maintain saturations > 90%
   - small doses of morphine to allow for decreased splinting
   - if progressive hypoxia will require mechanical ventilation
   - continue home asthma regimen
   .
   Acute Renal Failure:  Creatinine was elevated to 1.6 from baseline
   0.9.  Likely prerenal in the setting of septic shock and has now
   corrected to baseline.  Will continue to monitor.
   .
   Isolted ST elevation:  Patient with [**Street Address(2) 5877**] elevation in lead
   III on admission.  Subsequently resolved on future EKGs.  One set of
   cardiac enzymes negative. Ruled out for MI with cardiac enzymes
   .
   Sarcoidosis:  Manifested by pulmonary and occular complications.  Nto
   on recent steroids.  Appearance of chest CT does not suggest severe
   disease.
   - continue to monitor
   .
   Obstructive Sleep Apnea:
   - continue home CPAP if tolerated
   .
   Hyperglycemia:  Not on medications at home.
   - insulin sliding scale
   .
   Hypercholesterolemia
   - continue cholestyramine
   .
   Depression:
   - continue effexor and clonazepam
   .
   Benign Prostatic Hypertrophy:
   - continue finasteride
   .
   Exercise Induced Asthma:
   - continue albuterol, advair and monteleukast
   .
   GERD:
   - continue omeprazole
   .
   FEN: IVF as needed for resuscitation, regular diet, monitor
   electrolytes
   .
   Prophylaxis: Subutaneous heparin, PPI
   .
   Access: Right sepsis catheter
   .
   Code:  Full
   .
   Communication: Patient
   .
   Disposition: ICU care for now
   ICU Care
   Nutrition:
   Regular; Cardiac/Heart healthy , Diabetic/Consistent Carbohydrate
   Glycemic Control:  insulin sliding scale
   Lines:
   Presep Catheter - [**2185-5-15**] 04:25 PM
   18 Gauge - [**2185-5-15**] 05:13 PM
   Arterial Line - [**2185-5-15**] 06:26 PM
 plan to remove a-line today
   Prophylaxis:
   DVT: heparin SC
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for today

2185-05-19 11:16:00 Physician Attending Progress Note
Chief Complaint: severe CAP
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   56 yo man with severe CAP.  Did well overnight
   24 Hour Events:
 ARTERIAL LINE - STOP [**2185-5-18**] 02:20 PM
   Allergies:
   Aspirin
   Abdominal pain;
   Prednisone
   glaucoma;
   Last dose of Antibiotics:
   Vancomycin - [**2185-5-18**] 08:00 AM
   Piperacillin/Tazobactam (Zosyn) - [**2185-5-18**] 10:00 AM
   Ceftriaxone - [**2185-5-18**] 04:00 PM
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2185-5-18**] 08:56 PM
   Heparin Sodium (Prophylaxis) - [**2185-5-19**] 12:10 AM
   Other medications:
   SSI
   CTX and levoflox
   flovent
   effexor
   fexofenedine
   simvastatin
   s/q heparin
   prilosec
   advair
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Eyes: No(t)  Blurry vision
   Ear, Nose, Throat: No(t) Dry mouth
   Cardiovascular: Chest pain, pleurtic CP improved
   Respiratory: Cough, No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria
   Musculoskeletal: No(t) Myalgias
   Integumentary (skin): No(t) Rash
   Heme / Lymph: Anemia
   Neurologic: Headache
   Psychiatric / Sleep: No(t) Agitated
   Allergy / Immunology: Immunocompromised
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2185-5-19**] 11:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.7
C (98.1
   HR: 74 (72 - 91) bpm
   BP: 137/81(95) {120/66(80) - 141/83(97)} mmHg
   RR: 32 (21 - 39) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   CVP: 7 (7 - 10)mmHg
   Total In:
                                                                  1,555 mL
   PO:
                                                                    880 mL
   TF:
   IVF:
                                                                    675 mL
   Blood products:
   Total out:
                                                                  3,210 mL
                                                                    905 mL
   Urine:
                                                                  3,210 mL
                                                                    905 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,655 mL
                                                                   -905 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 97%
   ABG: ///26/
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Breath Sounds: Crackles : bibasilar R>L)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): times 3, Movement: Not assessed, Tone: Not
   assessed
   Labs / Radiology
   11.3 g/dL
   199 K/uL
   118 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.6 mEq/L
   14 mg/dL
   107 mEq/L
   142 mEq/L
   34.1 %
   9.5 K/uL
        [image002.jpg]
                             [**2185-5-15**]  06:16 PM
                             [**2185-5-15**]  06:28 PM
                             [**2185-5-16**]  03:45 AM
                             [**2185-5-16**]  04:23 AM
                             [**2185-5-17**]  03:47 AM
                             [**2185-5-17**]  05:22 AM
                             [**2185-5-18**]  02:41 AM
                             [**2185-5-19**]  03:00 AM
   WBC
   10.4
   12.1
   12.4
   9.5
   Hct
   35.6
   32.6
   32.8
   34.1
   Plt
   156
   152
   165
   199
   Cr
   0.9
   0.9
   0.8
   0.8
   TropT
   <0.01
   <0.01
   TCO2
   19
   23
   23
   Glucose
   95
   142
   130
   118
   Other labs: PT / PTT / INR:13.7/31.7/1.2, CK / CKMB /
   Troponin-T:59//<0.01, ALT / AST:18/11, Differential-Neuts:88.6 %,
   Lymph:7.1 %, Mono:3.7 %, Eos:0.4 %, Lactic Acid:1.6 mmol/L, Ca++:8.2
   mg/dL, Mg++:2.0 mg/dL, PO4:2.5 mg/dL
   Assessment and Plan
   Severe CAP/ septic shock/respiratory distress:
   Much improved.  Continue CTX and levoflox for 10 days.
   Pleuritic CP is improving.
   ARF:  resolved
   SSI
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Presep Catheter - [**2185-5-15**] 04:25 PM
   18 Gauge - [**2185-5-15**] 05:13 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes